USRE029153
Employing the procedure of Example I above but replacing 4-methoxyphenacyl bromide with a substantially equimolecular amount of phenacyl bromide and replacing pyridine with a substantially equimolecular amount of 4-tert.butylpyridine there is obtained N-(phenacyl) 4-tert.butylpyridinium bromide, a white solid melting at 247-248° C., and which is soluble in water.

reactant | 4-methoxyphenacyl bromide | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | phenacyl bromide | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 4-tert.butylpyridine | C(C)(C)(C)C1=CC=NC=C1 | C9H13N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(phenacyl) 4-tert.butylpyridinium bromide | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC=C(C=C1)C(C)(C)C | InChI=1S/C17H20NO.BrH/c1-17(2,3)15-9-11-18(12-10-15)13-16(19)14-7-5-4-6-8-14;/h4-12H,13H2,1-3H3;1H/q+1;/p-1
